US04654363
Step L: Preparation of Methyl 7-(2,4,7-trichloronapthalen-1-yl)-5-hydroxy-3-oxoheptanoate
A solution of methyl acetoacetate (0.088 g, 0.76 mmole) in dry tetrahydrofuran (2 ml) was added dropwise (5 minutes) to a mixture of sodium hydride (0.036 g, 0.75 mmole) in tetrahydrofuran (3 ml) under nitrogen and with cooling (ice bath). After stirring at about 5° C. for 20 minutes, a solution of n-butyl lithium in hexane (0.55 ml, 0.77 mole) was added dropwise (5 minutes) and the mixture stirred at 5° C. for 30 minutes. The ice bath was replaced by a dry ice-acetone bath and a solution of 3-(2,4,7-trichloronaphthalen-1-yl)propanal (0.20 g, 0.7 mmole) in tetrahydrofuran (5 ml) was added (5 minutes). The reaction mixture was stirred at -70° C. for about 10 minutes and at room temperature for 5 hours and then poured into ice water containing 0.5 ml conc. HCl. After extraction with ether, the ether extracts were combined, washed with cold water and brine and dried over MgSO4. The solution was filtered and concentrated in vacuo to give 0.25 g of the title compound as a yellow oil.

reactant | methyl acetoacetate | 0.76 mmole, 0.088 g | C(CC(=O)C)(=O)OC | C5H8O3
reactant | sodium hydride | 0.75 mmole, 0.036 g | [H-].[Na+]
reactant | n-butyl lithium | C(CCC)[Li]
reactant | hexane | 0.77 mole, 0.55 ml | CCCCCC | C6H14
reactant | 3-(2,4,7-trichloronaphthalen-1-yl)propanal | 0.7 mmole, 0.20 g | ClC1=C(C2=CC(=CC=C2C(=C1)Cl)Cl)CCC=O | C13H9Cl3O
solvent | tetrahydrofuran | 2 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 3 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 5 ml | O1CCCC1 | C4H8O
product | Methyl 7-(2,4,7-trichloronapthalen-1-yl)-5-hydroxy-3-oxoheptanoate | 0.25 g | ClC1=C(C2=CC(=CC=C2C(=C1)Cl)Cl)CCC(CC(CC(=O)OC)=O)O | C18H17Cl3O4
